US08106055B2
Preparation of 2-(dimethylamino)-2-(1-(4-methoxybenzyl)piperidin-4-yl)acetonitrile (R1, R2=methyl)
40% strength aqueous dimethylamine solution (2.66 ml, 21 mmol), 1-(4-methoxybenzyl)piperidine-4-carbaldehyde (750 mg, 3.2 mmol) and potassium cyanide (688 mg, 10.6 mmol) were added to a mixture of 4 N hydrochloric acid (1.2 ml) and methanol (5 ml), while cooling with ice. The reaction mixture was stirred at room temperature for 5 d, water (50 ml) was then added and the mixture was extracted with ethyl acetate (3×50 ml). The combined organic phases were dried with sodium sulfate and concentrated i. vac.

reactant | dimethylamine | 21 mmol, 2.66 ml | CNC | C2H7N
reactant | 1-(4-methoxybenzyl)piperidine-4-carbaldehyde | 3.2 mmol, 750 mg | COC1=CC=C(CN2CCC(CC2)C=O)C=C1 | C14H19NO2
reactant | potassium cyanide | 10.6 mmol, 688 mg | [C-]#N.[K+]
reactant | hydrochloric acid | 4 N, 1.2 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 2-(dimethylamino)-2-(1-(4-methoxybenzyl)piperidin-4-yl)acetonitrile | CN(C(C#N)C1CCN(CC1)CC1=CC=C(C=C1)OC)C | C17H25N3O
